US07576215B2
3-[({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]BENZENE-1,2-DIOL
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and 2,3-dihydroxybenzaldehyde according to the procedure of step 1, Example 66. MS (ESI) m/z 501; MS (ESI) m/z 499.

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 2,3-dihydroxybenzaldehyde | OC1=C(C=O)C=CC=C1O | C7H6O3
product | 3-[({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]BENZENE-1,2-DIOL | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=C(C(=CC=C1)O)O)C(F)(F)F | C30H23F3N2O2
